US07932272B2
5-[1,3]Dioxolan-2-yl-furan-2-carbaldehyde (2.03 g, 12.1 mmol), trimethylsulfonium bromide (1.90 g, 12.1 mmol) and potassium hydroxide (779 mg, 13.9 mmol) were suspended in acetonitrile (75 mL), and the solution was stirred overnight at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, 2-(5-oxiranyl-furan-2-yl)-[1,3]dioxolane (2.25 g) was obtained as a pale yellow oil.

reactant | 5-[1,3]Dioxolan-2-yl-furan-2-carbaldehyde | 12.1 mmol, 2.03 g | O1C(OCC1)C1=CC=C(O1)C=O | C8H8O4
reactant | trimethylsulfonium bromide | 12.1 mmol, 1.90 g | [Br-].C[S+](C)C
reactant | potassium hydroxide | 13.9 mmol, 779 mg | [OH-].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 2-(5-oxiranyl-furan-2-yl)-[1,3]dioxolane | 2.25 g | O1C(C1)C1=CC=C(O1)C1OCCO1 | C9H10O4
